US08426411B2
To a suspension of (1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine hydrochloride (0.175 g, 0.373 mmol, prepared using E from Preparation #B.1 and HCl) and NaOAc (0.100 g, 1.22 mmol) in DCM (3 mL) and water (2 mL) was added 2,5-dimethoxytetrahydrofuran-3-carbaldehyde (0.600 g, 3.37 mmol). The reaction was heated to about 40° C. for about 24 h. The reaction mixture was diluted with DCM (30 mL) and washed with water (4×20 mL). The organic layer was dried over anhydrous MgSO4, filtered, and the solvent was removed under reduced pressure to give a brown residue. The crude material was purified by flash chromatography on silica gel eluting with a gradient of 20-100% EtOAc in DCM to give 1-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-1H-pyrrole-3-carbaldehyde (0.059 g, 33%) as a yellow amorphous solid: LC/MS (Table 1, Method a) Rt=2.10 min; MS m/z: 475 (M+H)+.

reactant | (1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentanamine hydrochloride | 0.373 mmol, 0.175 g | Cl.S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@H](CC1)N
reactant | NaOAc | 1.22 mmol, 0.100 g | CC(=O)[O-].[Na+]
reactant | 2,5-dimethoxytetrahydrofuran-3-carbaldehyde | 3.37 mmol, 0.600 g | COC1OC(CC1C=O)OC | C7H12O4
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 2 mL | O | H2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 1-((1S,3R)-3-(6-tosyl-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazin-1-yl)cyclopentyl)-1H-pyrrole-3-carbaldehyde | 0.059 g, 33% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=NN1)[C@H]1C[C@H](CC1)N1C=C(C=C1)C=O | C24H22N6O3S
